US04983608
b. 6-Chloro-N-(3-methyl-1H-indol-1-yl)-4-pyrimidinamine
To 125 ml of 1-methyl-2-pyrrolidinone was added 3-methyl-1H-indol-1-amine (10.0 g), and this mixture was heated to 120° C. Then 4,6-dichloropyrimidine (10.43 g), was added to the hot solution and this mixture was stirred for four hours. The reaction was cooled, poured into water, basified with Na2CO3 (aq) extracted with ethyl acetate and the organic layer washed with water and dried (sat. NaCl, anhy. MgSO4).

reactant | 1-methyl-2-pyrrolidinone | 125 ml | CN1C(CCC1)=O | C5H9NO
reactant | 3-methyl-1H-indol-1-amine | 10.0 g | CC1=CN(C2=CC=CC=C12)N | C9H10N2
reactant | 4,6-dichloropyrimidine | 10.43 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
product | 6-Chloro-N-(3-methyl-1H-indol-1-yl)-4-pyrimidinamine | ClC1=CC(=NC=N1)NN1C=C(C2=CC=CC=C12)C | C13H11ClN4
